US08871767B2
6-chloro-2-(4-methyl-3-nitro-phenyl)imidazo[2,1-f]pyridazine
A stirred solution of 6-chloropyridazin-3-amine (18.4 g, 0.14 mol) and 2-bromo-1-(4-methyl-3-nitro-phenyl)ethanone (36.13 g, 0.14 mol) in acetonitrile (219 mL) is heated at reflux for 18 hr. The mixture is diluted with water (500 mL), stirred at room temperature for 1 hour and solids are collected by filtration to give the title compound (35.65 g, 88% yield). LCMS m/z=289.4 [M+H]+, tR=2.65 min.

reactant | 6-chloropyridazin-3-amine | 0.14 mol, 18.4 g | ClC1=CC=C(N=N1)N | C4H4ClN3
reactant | 2-bromo-1-(4-methyl-3-nitro-phenyl)ethanone | 0.14 mol, 36.13 g | BrCC(=O)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C9H8BrNO3
solvent | acetonitrile | 219 mL | C(C)#N | C2H3N
solvent | water | 500 mL | O | H2O
product | 6-chloro-2-(4-methyl-3-nitro-phenyl)imidazo[2,1-f]pyridazine | 35.65 g, 88% yield | ClC1=NN2C(C=C1)=NC(=C2)C2=CC(=C(C=C2)C)[N+](=O)[O-] | C13H9ClN4O2
